US03987160
Salicylamide (68.5 g.; prepared as described by R. Bogoczek, Farm. Polska, 1960, 16, 26) was added to a solution of sodium (11.5 g.) in anhydrous ethanol (400 ml.). Isobutyl bromide (60 ml.) was then added, and the mixture was stirred and heated to reflux overnight. The ethanol was evaporated, and sufficient water was added to the residue to dissolve the sodium bromide. The oil which did not dissolve was extracted with chloroform, the extract was washed twice with 2N sodium hydroxide solution and once with water, dried over magnesium sulphate, filtered and evaporated. The residue was triturated with light petroleum (b.p. 40°-60° C.) to give 2-isobutoxybenzamide, which was pure enough for use in the next stage of the synthesis. A pure sample, m.p. 125°-128° C., was obtained by recrystallisation of an aliquot from cyclohexane.

reactant | Salicylamide | 68.5 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | sodium | 11.5 g | [Na] | Na
reactant | Isobutyl bromide | 60 ml | C(C(C)C)Br | C4H9Br
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-isobutoxybenzamide | C(C(C)C)OC1=C(C(=O)N)C=CC=C1 | C11H15NO2
